US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]valerate (4.6 g) and potassium hydroxide (3.5 g) in ethanol (50 ml) and water (25 ml) was treated in a similar manner to that of Example 14-(7) to give oily 2-[2-methoxy-3-(o-tolyloxy)phenyl]valeric acid (3.7 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]valerate | 4.6 g | C(#N)C(C(=O)OCC)(CCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C22H25NO4
reactant | potassium hydroxide | 3.5 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 2-[2-methoxy-3-(o-tolyloxy)phenyl]valeric acid | 3.7 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C(=O)O)CCC | C19H22O4
